US08198299B2
A mixture pyridin-3-ylboronic acid (128 mg, 1.05 mmol), methyl 4-(4-(5-bromothiazol-2-yl)-tetrahydro-2H-pyran-4-yl)benzoate (200 mg, 0.52 mmol), potassium carbonate (144 mg, 1.05 mmol), and PdCl2(dppf) (76 mg, 0.11 mmol) in toluene/ethanol/water (2 mL/1 mL/1 mL) was heated in microwave (Emry's Optimizer) at 100° C. for 20 minutes. The reaction mixture was then poured into EtOAc/hexanes mixture and the resultant solid was filtered and dried. The dried solid was used for next step without purification. MS found for C21H20N2O3S (m/z): 381.20 [M++1]. To the above crude ester in methanol (5 mL) and THF (2 mL), NaOH (1.0 M, 5.0 mL) was added and stirred at room temperature for 16 hours. The reaction mixture was then diluted with water and acidified with 1N HCl to about pH 7. The aqueous solution was then concentrated and diluted with methanol. The solids were filtered. The filtrate was then concentrated and used for next step. MS found for C20H18N2O3S (m/z): 367.39 [M++1]. To the above crude carboxylic acid in NMP (3 mL), was added HATU (300 mg, 0.76 mmol), tert-butyl 2-amino-4-(thiophen-2-yl)phenylcarbamate (303 mg, 1.05 mmol) and N-methylmorpholine (NMM) (0.3 mL, 2.62 mmol) and stirred at 50° C. for 16 hours. The reaction mixture was then diluted with water and acetonitrile/methanol and the resulting solid was filtered and washed with water and dried to give tert-butyl 2-(4-(4-(5-(pyridin-3-yl)thiazol-2-yl)-tetrahydro-2H-pyran-4-yl)benzamido)-4-(thiophen-2-yl)phenylcarbamate. MS found for C35H34N4O4S2 as (M+H)+ 639.17. To the above butoxycarbonyl (Boc) protected compound was added 4.0 M HCl dioxane (6.0 mL) and stirred at room temperature for 1 hour. The reaction mixture was then concentrated and diluted with water and acetonitrile and directly purified by preparative HPLC followed by lyophilization to give the title compound. MS found for C30H26N4O2S2 as (M+H)+ 538.91. 1H NMR (400 MHz, dmso-d6): δ 9.68 (s, 1H); 8.82 (s, 1H); 8.50 (d, J=3.6 Hz, 1H); 8.25 (s, 1H); 7.99-7.95 (m, 3H); 7.59 (d, J=8.8 Hz, 2H) 7.41-7.39 (m, 2H); 7.32-7.19 (m, 4H); 7.02-7.00 (m, 1H); 6.77 (d, J=8.4 Hz, 1H); 5.12 (brs, 2H); 3.76-3.73 (m, 2H); 3.65-3.60 (m, 2H); 2.66-2.63 (m, 2H); 2.41-2.39 (m, 2H).

reactant | pyridin-3-ylboronic acid | 1.05 mmol, 128 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | methyl 4-(4-(5-bromothiazol-2-yl)-tetrahydro-2H-pyran-4-yl)benzoate | 0.52 mmol, 200 mg | BrC1=CN=C(S1)C1(CCOCC1)C1=CC=C(C(=O)OC)C=C1 | C16H16BrNO3S
reactant | potassium carbonate | 1.05 mmol, 144 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HATU | 0.76 mmol, 300 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl 2-amino-4-(thiophen-2-yl)phenylcarbamate | 1.05 mmol, 303 mg | NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O | C15H18N2O2S
reactant | N-methylmorpholine | 2.62 mmol, 0.3 mL | CN1CCOCC1 | C5H11NO
solvent | toluene ethanol water | 2 mL | C1(=CC=CC=C1)C.C(C)O.O
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
solvent | acetonitrile methanol | C(C)#N.CO
catalyst | PdCl2(dppf) | 0.11 mmol, 76 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 2-(4-(4-(5-(pyridin-3-yl)thiazol-2-yl)-tetrahydro-2H-pyran-4-yl)benzamido)-4-(thiophen-2-yl)phenylcarbamate | N1=CC(=CC=C1)C1=CN=C(S1)C1(CCOCC1)C1=CC=C(C(=O)NC2=C(C=CC(=C2)C=2SC=CC2)NC(OC(C)(C)C)=O)C=C1 | C35H34N4O4S2
